US08227601B2
To a solution of 4-hydroxy-3,5-dimethylbenzonitrile (1.62 mg, 11.0 mmol) in 1-methyl-2-pyridone (5 mL) in a sealed tube was added NaH (441 mg, 11.0 mmol). The reaction mixture was stirred at room temperature for 15 min and a solution of 7-benzyl-4-chloro-7H-pyrrolo[2,3-d]pyrimidin-2-ylamine (950 mg, 3.67 mmol) in 1-methyl-2-pyridone (5 mL) was added to the mixture. The mixture was heated at 150° C. for 16 h and cooled to room temperature. The reaction was poured into ice water and extracted with EtOAc (2×50 mL). The combined organic solution was washed with H2O (50 mL) and brine (50 mL), dried with Na2SO4, and concentrated to dryness. Silica gel chromatography (Hexanes:EtOAc 75:25) yielded 1.12 mg (83%) of 4-(2-amino-7-benzyl-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy)-3,5-dimethyl-benzonitrile.

reactant | 4-hydroxy-3,5-dimethylbenzonitrile | 11.0 mmol, 1.62 mg | OC1=C(C=C(C#N)C=C1C)C | C9H9NO
reactant | NaH | 11.0 mmol, 441 mg | [H-].[Na+]
reactant | 7-benzyl-4-chloro-7H-pyrrolo[2,3-d]pyrimidin-2-ylamine | 3.67 mmol, 950 mg | C(C1=CC=CC=C1)N1C=CC2=C1N=C(N=C2Cl)N | C13H11ClN4
solvent | 1-methyl-2-pyridone | 5 mL | CN1C(C=CC=C1)=O | C6H7NO
solvent | 1-methyl-2-pyridone | 5 mL | CN1C(C=CC=C1)=O | C6H7NO
product | 4-(2-amino-7-benzyl-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy)-3,5-dimethyl-benzonitrile | 1.12 mg, 83% | NC=1N=C(C2=C(N1)N(C=C2)CC2=CC=CC=C2)OC2=C(C=C(C#N)C=C2C)C | C22H19N5O
